US07723329B2
Step 2) 3-(Naphthalene-1-sulfonylmethyl)-4-nitrobenzaldehyde
A mixture of 2-[3-(naphthalene-1-sulfonylmethyl)-4-nitro-phenyl]-[1,3]dioxolane (3.03 g, 7.6 mmoles), and 2N HCl (4 mL, 8 mmoles) in THF (30 mL) was stirred at 40° C. for 4 hours. The reaction mixture was cooled to room temperature, diluted with waster, extracted with EtOAc, dried over Na2SO4, and concentrated under vacuum to yield the title compound (2.56 g, 7.22 mmoles).

reactant | 2-[3-(naphthalene-1-sulfonylmethyl)-4-nitro-phenyl]-[1,3]dioxolane | 7.6 mmoles, 3.03 g | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)CC=1C=C(C=CC1[N+](=O)[O-])C1OCCO1 | C20H17NO6S
reactant | HCl | 8 mmoles, 2N, 4 mL | Cl | ClH
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 3-(Naphthalene-1-sulfonylmethyl)-4-nitrobenzaldehyde | 7.22 mmoles, 2.56 g | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)CC=1C=C(C=O)C=CC1[N+](=O)[O-] | C18H13NO5S
